US04044057
To a 2-liter 3-necked flask fitted with a mechanical stirrer, additional funnel, reflux condenser and drying tube was added 15 g. (0.39 mole) of sodium borohydride and 500 ml. 2-propanol. To this solution was slowly added 218.6 g. (1.317 moles) of 4,4,6-trimethylbicyclo[4.2.0]octane-2-one in 50 ml. of 2-propanol. After 2 hours, about 200 ml. of water was added. The mixture was stirred an additional 1 hour, then about 35 ml. concentrated hydrochloric acid was added. After another 1 hour of stirring, 400 ml. of toluene and 500 ml. of water were added. The layers were separated and the organic layer was washed three times with 100 ml. of water. The combined water layers were extracted with toluene. The toluene layers were combined and dried over potassium carbonate. The solution was concentrated in vacuo and the residue distilled through a 25 cm. Vigreux--column to yield 215.8 g. (1.284 moles, 97.5 % yield) of 4,4,6-trimethylbicyclo [4.2.0]octane-2-ol. IR: 3360 cm-1.

reactant | sodium borohydride | 0.39 mole | [BH4-].[Na+]
reactant | 2-propanol | CC(C)O | C3H8O
reactant | 4,4,6-trimethylbicyclo[4.2.0]octane-2-one | 1.317 moles | CC1(CC(C2CCC2(C1)C)=O)C | C11H18O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4,4,6-trimethylbicyclo [4.2.0]octane-2-ol | 1.284 moles, 97.5 % yield | CC1(CC(C2CCC2(C1)C)O)C | C11H20O
